US07781443B2
(2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-carboxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (500 mg) is dissolved in toluene (10 ml), and thereto are added triethylamine (0.66 ml), diphenylphosphoryl azide (0.52 ml) and methanol (1 ml). The mixture is heated at 60° C. and stirred for 2 days. The reaction solution is cooled to room temperature, a saturated aqueous sodium hydrogen carbonate solution and ethyl acetate. The organic layer is washed with saturated brine and dried over magnesium sulfate, then concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane:ethyl acetate=4:1→3:2) to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-methoxy-carbonylaminopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (25 mg). MS (m/z): 657 [M+H]+.

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-carboxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 500 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)O)CC | C28H27F6N5O5
reactant | triethylamine | 0.66 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.52 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 ml | CO | CH4O
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-methoxy-carbonylaminopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 25 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC(=C(C(=N1)N=C=O)OC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C29H28F6N6O5
